US06284779B1
b) 3-(3-Pyridyl)-propionamidoxime
20.1 g (0.15 mol) of 3-(3-pyridyl)propionitrile is dissolved in a mixture of 61 ml of ethanol, and 15 ml of water and 9.5 g (0.14 mol) of hydroxylamine hydrochloride and 21 g (0.15 mol) of K2CO3 are added. After 24 hours at reflux, the solvent is removed in a vacuum, and the residue is extracted twice with ethanol. The extracts are concentrated by evaporation and recrystallized in hot ethanol. 14.1 g (56%) of product is obtained. Melting point 119-121° C.

reactant | 3-(3-pyridyl)propionitrile | 0.15 mol, 20.1 g | N1=CC(=CC=C1)CCC#N | C8H8N2
reactant | hydroxylamine hydrochloride | 0.14 mol, 9.5 g | Cl.NO
reactant | K2CO3 | 0.15 mol, 21 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 61 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 3-(3-Pyridyl)-propionamidoxime | 14.1 g, 56% | N1=CC(=CC=C1)CCC(N)=NO | C8H11N3O
